US08859776B2
Acid A136 3-(2-(4-cyano-1-((2R,3S)-2-propyl-1-(4-(trifluoromethyl)nicotinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)phenyl)propanoic acid (10 mg, 13.3 μmol) was dissolved in THF (0.5 mL). The mixture was cooled to 0° C. and BH3.THF (30 μL, 27.9 μmol) was added dropwise under Ar. The reaction was warmed to 23° C. and was stirred overnight. The reaction mixture was quenched with 1 M NaOH and was concentrated. The crude residue was purified by reverse phase preparative HPLC to yield 4-(2-(3-hydroxypropyl)phenyl)-1-((2R,3S)-2-propyl-1-(4-(trifluoromethyl)nicotinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidine-4-carbonitrile A138. LC/MS RT (10 min method)=6.04 min. Mass observed: 737.25 (M+H).

reactant | 3-(2-(4-cyano-1-((2R,3S)-2-propyl-1-(4-(trifluoromethyl)nicotinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)phenyl)propanoic acid | 13.3 μmol, 10 mg | C(#N)C1(CCN(CC1)C(=O)[C@]1([C@H](N(CCC1)C(C1=CN=CC=C1C(F)(F)F)=O)CCC)OC1=CSC(=C1)C(F)(F)F)C1=C(C=CC=C1)CCC(=O)O | C36H36F6N4O5S
reactant | BH3.THF | 27.9 μmol, 30 μL | B.C1CCOC1
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(2-(3-hydroxypropyl)phenyl)-1-((2R,3S)-2-propyl-1-(4-(trifluoromethyl)nicotinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidine-4-carbonitrile | OCCCC1=C(C=CC=C1)C1(CCN(CC1)C(=O)[C@]1([C@H](N(CCC1)C(C1=CN=CC=C1C(F)(F)F)=O)CCC)OC1=CSC(=C1)C(F)(F)F)C#N | C36H38F6N4O4S
